US05371080
(R)-6-chloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-5-(2-hydroxymethyl-1-pyrrolidinyl)-imidazo[1,5-a]quinazoline (Compound 46)
A mixture of (R)-2-hydroxymethylpyrrolidine (70 mg) and triethylamine (90 mg) dissolved in dry DMF (1 ml) was added dropwise to a stirred suspension of 5,6-dichloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-imidazo[1,5-a]-quinazoline (0.20 g) in dry DMF (5 ml) at 0° C. After 20 min. the reaction mixture was filtered. The filtrate was diluted with 15 ml of water and stirred at 0° C. for 10 min. The crystals which had formed were filtered off, rinsed with water, and dried to give the title compound as yellow crystals, m.p. 220°-221° C. Yield 0.15 g.

reactant | (R)-2-hydroxymethylpyrrolidine | 70 mg | OC[C@@H]1NCCC1 | C5H11NO
reactant | triethylamine | 90 mg | C(C)N(CC)CC | C6H15N
reactant | 5,6-dichloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-imidazo[1,5-a]-quinazoline | 0.20 g | ClC1=NC=2N(C3=CC=CC(=C13)Cl)C=NC2C2=NC(=NO2)C2CC2 | C15H9Cl2N5O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (R)-6-chloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-5-(2-hydroxymethyl-1-pyrrolidinyl)-imidazo[1,5-a]quinazoline | ClC1=C2C(=NC=3N(C2=CC=C1)C=NC3C3=NC(=NO3)C3CC3)N3[C@H](CCC3)CO | C20H19ClN6O2
